US07452893B2
To a solution of (±)-tert-butyl {[cis-4-(1-hydroxy-3-phenylpropyl)cyclohexyl]methyl}carbamate (3.63 g, approximately 10 mmol) in dioxane (20 ml) cooled in an ice-bath was added dropwise 4M hydrogen choride in dioxane (20 ml, 80 mmol). The solution was stirred 2 hours at ice-bath temperature, one hour at ambient temperature, then concentrated at reduced pressure. The solid residue was taken up in methylene chloride (200 ml) and 10N sodium hydroxide (1.0 ml, 10 mmol) was added. The mixture was stirred 20 minutes at ambient temperature, dried (sodium carbonate and sodium sulfate), filtered, and the solvent evaporated under reduced pressure to give crude (+−)-1-[cis-4-(aminomethyl)cyclohexyl]-3-phenylpropan-1-ol (2.71 g, theoretical yield 2.47 g) as a yellow gum: 1H NMR (CDCl3) 7.28 (2H, m), 7.18 (3H, m), 3.51 (1H, m), 2.85 (1H, m), 2.64 (3H, m), 1.88 (1H, m), 1.69 (1H, m), 1.54-1.33 (3H, m). MS: 248.3 (M+1).

reactant | (±)-tert-butyl {[cis-4-(1-hydroxy-3-phenylpropyl)cyclohexyl]methyl}carbamate | approximately 10 mmol, 3.63 g | OC(CCC1=CC=CC=C1)[C@H]1CC[C@H](CC1)CNC(OC(C)(C)C)=O | C21H33NO3
reactant | hydrogen choride | 4M | Cl | ClH
reactant | sodium hydroxide | 10 mmol, 10N, 1.0 ml | [OH-].[Na+]
solvent | dioxane | 20 ml | O1CCOCC1 | C4H8O2
solvent | dioxane | 80 mmol, 20 ml | O1CCOCC1 | C4H8O2
product | (+−)-1-[cis-4-(aminomethyl)cyclohexyl]-3-phenylpropan-1-ol | 2.71 g | NC[C@H]1CC[C@H](CC1)C(CCC1=CC=CC=C1)O | C16H25NO
